US07192945B2
1,1-Dioxo-3,3-dibutyl-5-(4-t-butoxycarbonylaminophenyl)-8-hydroxy-2,3,4,5-tetrahydro-1,5-benzothiazepine
1,1-Dioxo-3,3-dibutyl-5-(4-aminophenyl)-8-hydroxy-2,3,4,5-tetrahydro-1,5-benzothiazepine (Method 106; 600 mg, 1.44 mmol was dissolved in THF (10 ml). Di-t-butyldicarbonate (314 mg, 1.44 mmol) was added and the mixture was stirred at 60° C. for two hours and room temperature for 3 days. The solvent was evaporated under reduced pressure. EtOAc was added and the organic layer was washed once with KHSO4-solution (0.3M, aq) and once with brine, dried, filtered and evaporated under reduced pressure. The residue was purified by flash chromatography using DCM:EtOAc, 9:1 as eluent to give the title compound 0.597 g (80%). M/z 517.3.

reactant | 1,1-Dioxo-3,3-dibutyl-5-(4-aminophenyl)-8-hydroxy-2,3,4,5-tetrahydro-1,5-benzothiazepine | O=S1(CC(CN(C2=C1C=C(C=C2)O)C2=CC=C(C=C2)N)(CCCC)CCCC)=O | C23H32N2O3S
reactant | Di-t-butyldicarbonate | 1.44 mmol, 314 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1,1-Dioxo-3,3-dibutyl-5-(4-t-butoxycarbonylaminophenyl)-8-hydroxy-2,3,4,5-tetrahydro-1,5-benzothiazepine | 0.597 g, 80% | O=S1(CC(CN(C2=C1C=C(C=C2)O)C2=CC=C(C=C2)NC(=O)OC(C)(C)C)(CCCC)CCCC)=O | C28H40N2O5S
